US06583135B2
3-Benzoyl-10-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (2.50 g, 6.00 mmol), triturated potassium phosphate (3.01 g, 14.2 mmol) and tris(dibenzylideneacetone)dipalladium(0) (0.562 g, 0.613 mmol) were combined in dioxane (63 mL) at rt under N2. 2-Bromobenzotrifluoride (0.98 mL, 1.62 g, 7.21 mmol) and trimethylphosphite (0.22 mL, 0.231 g, 1.86 mmol) were added to the reaction mixture by syringe. Ar was bubbled through the reaction mixture for 20 min. The reaction mixture was heated to reflux for 22 h. The reaction mixture was concentrated and the residue was taken up in toluene (150 mL) and H2O (200 mL). The layers were separated and the aqueous layer was extracted with toluene (1×100 mL, 1×50 mL). The combined organic layers were dried over MgSO4, filtered and concentrated. The crude product (3.90 g) was chromatographed (SiO2 250 g, eluted with 2:1 toluene:EtOAc) to yield 3-benzoyl-10-[2-(trifluoromethyl)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (2.48 g) in 95% yield. IR (diffuse reflectance) 3294, 1617, 1575, 1461, 1439, 1423, 1346, 1334, 1316, 1276, 1266, 1259, 1178, 1170, 1126, 1113, 1105, 1058, 1034, 792, 775, 755, 719, 701, 626 cm−1; MS (ESI+) for C26H21F3N2O m/z 435.0 (M+H)+; Anal. Calcd for C26H21F3N2O: C, 71.88; H, 4.87; N, 6.45; found: C, 71.94; H, 4.93; N, 6.48.

reactant | 3-Benzoyl-10-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 6.00 mmol, 2.50 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)B1OC(C(O1)(C)C)(C)C | C25H29BN2O3
reactant | potassium phosphate | 14.2 mmol, 3.01 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-Bromobenzotrifluoride | 7.21 mmol, 0.98 mL, 1.62 g | BrC1=C(C=CC=C1)C(F)(F)F | C7H4BrF3
reactant | trimethylphosphite | 1.86 mmol, 0.22 mL, 0.231 g | COP(OC)OC | C3H9O3P
solvent | dioxane | 63 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.613 mmol, 0.562 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-benzoyl-10-[2-(trifluoromethyl)phenyl]-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 2.48 g, 95% yield | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=C(C=CC=C1)C(F)(F)F | C26H21F3N2O
